US06730790B2
FIG. 9 depicts the second step in the synthesis of e.e.(S)-(+)-3-chloromethylsulfinyl-7-fluoro-1-methyl-4-quinolone and (R)-(−)-3-chloromethylsulfinyl-7-fluoro-1-methyl-4-quinolone. In this step, 7-fluoro-1-methyl-3-methylthio-4-quinolone is chlorinated as described to produce 3-chloromethylthio-7-fluoro-1-methyl-4-quinolone.

reactant | (S)-(+)-3-chloromethylsulfinyl-7-fluoro-1-methyl-4-quinolone | ClC[S@@](=O)C1=CN(C2=CC(=CC=C2C1=O)F)C | C11H9ClFNO2S
reactant | (R)-(−)-3-chloromethylsulfinyl-7-fluoro-1-methyl-4-quinolone | ClC[S@](=O)C1=CN(C2=CC(=CC=C2C1=O)F)C | C11H9ClFNO2S
reactant | 7-fluoro-1-methyl-3-methylthio-4-quinolone | FC1=CC=C2C(C(=CN(C2=C1)C)C)=S | C11H10FNS
product | 3-chloromethylthio-7-fluoro-1-methyl-4-quinolone | ClCSC1=CN(C2=CC(=CC=C2C1=O)F)C | C11H9ClFNOS
